2106-03-16 07:40:00 Physician Resident Progress Note
Chief Complaint: 29M with new onset seizure
   24 Hour Events:
   Seen by neurology, found no focal deficits, recommended MRI EEG and
   loading Keppra
 EKG - At [**2106-3-15**] 10:00 PM
   Allergies:
   Sulfa (Sulfonamides)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Propofol - 90 mcg/Kg/min
   Other medications:
   Keppra
   SQ heparin
   Famotidine
   Flowsheet Data as of  [**2106-3-16**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 80 (80 - 102) bpm
   BP: 115/63(72){115/47(69) - 144/78(91)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 78.2 kg
   Height: 69 Inch
    EKG: no further episodes of SVT
   Total In:
                                                                  2,340 mL
                                                                    403 mL
   PO:
   TF:
   IVF:
                                                                    280 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  1,078 mL
                                                                    370 mL
   Urine:
                                                                    278 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,262 mL
                                                                     33 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.42/35/204/23/Units: mEq/L
   Ve: 9.5 L/min
   PaO2 / FiO2: 680
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   254 K/uL
   13.3 g/dL
   97 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   109 mEq/L
   142 mEq/L
   38.3 %
   7.5 K/uL
        [image002.jpg]
   [**3-15**] CSF no polys or organisms, cultures pending
                             [**2106-3-15**]  11:22 PM
                             [**2106-3-16**]  04:21 AM
   WBC
   7.5
   Hct
   38.3
   Plt
   254
   Cr
   1.4
   TCO2
   23
   Glucose
   97
   Other labs: Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   #. Generalized tonic-clonic seizures. Patient without a clear etiology
   including no history of significant alcohol use, other ingestions, CNS
   masses, or traumatic brain injury. Urine and serum tox screens
   negative, including a negative ETOH level. Osmolal gap WNL (3.5). LP
   performed in the ED did not show evidence of infection. ?Hypoxia in
   setting of SVT, unclear if arrhythmia prior to or subsequent to
   seizure. Given murmur ?embolism but suspect would have shown on head
   CT.
   -Appreciate neurology and toxicology recommendations
   -EEG and MRI today
   -Follow up CNS fluid cultures
   -Seizure precautions
   -Start Keppra 1000 mg load, 500 mg [**Hospital1 **] per neurology recommendations.
   .
   #. Altered mental status. S/p intubation for airway protection in
   setting of tonic-clonic seizures. No evidence of respiratory failure.
   -Wean to pressure support in AM, will likely be extubated in the AM.
   -HOB>30 degrees, chlorhexidine swabs
   -Propofol gtt for sedation while intubated
   .
   #. AVNRT. Patient with episode of AVNRT requiring adenosine while
   having a tonic-clonic seizure. Likely developed arrhythmia in setting
   of stress.
   -Will monitor on telemetry
   -Repeat EKG.
   -Obtain echo in the setting of murmur; may need outpatient EP
   evaluation
   ICU Care
   Nutrition:  regular diet when off vent
   Glycemic Control:  glucose adequately controlled
   Lines:
   18 Gauge - [**2106-3-15**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI  Extubate today
   Communication: ICU consent signed communication with family
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Addendum to problem list
   -Cr elevated today 1.1 -> 1.4
   UA yesterday notable for heme+ but no RBCs on sediment could be c/w
   myoglobinuria [**3-13**] rhabdo in setting of seizure. However CK not greatly
   elevated yesterday will repeat CK this AM. No contrast load. Did get
   abx in ED, could have AIN so check urine eos.  No hypotension
   concerning for ATN.
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) 436**], MD
   on:[**2106-3-16**] 11:43 ------

2106-03-16 10:09:00 Physician Attending Progress Note
Chief Complaint: Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No further sz. Down to MR
   24 Hour Events:
 EKG - At [**2106-3-15**] 10:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Propofol - 90 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-3-16**] 07:39 AM
   Famotidine (Pepcid) - [**2106-3-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: On vent
   Neurologic: Seizure
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-3-16**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 80 (78 - 102) bpm
   BP: 120/77(84){115/47(69) - 144/78(91)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 78.2 kg
   Height: 69 Inch
             Total In:
                                                                  2,340 mL
                                                                    593 mL
   PO:
             TF:
   IVF:
                                                                    280 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                  1,078 mL
                                                                    590 mL
   Urine:
                                                                    278 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,262 mL
                                                                      3 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: 7.42/35/204/23/Units: mEq/L
   Ve: 9.2 L/min
   PaO2 / FiO2: 680
   Physical Examination
   Sedated
   Healthy appearing thin
   PERRLA
   Mouth dry
   Neck supple
   Chest clear
   CV 2/6 SEM
   Abd
 soft w/o tenderness
   Extrem
 w/o CCE
   Joints
 normal
   Neuro
 sedated w/o focal findings
   Skin w/o rash
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.3 g/dL
   254 K/uL
   97 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   109 mEq/L
   142 mEq/L
   38.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2106-3-15**]  11:22 PM
                             [**2106-3-16**]  04:21 AM
   WBC
   7.5
   Hct
   38.3
   Plt
   254
   Cr
   1.4
   TCO2
   23
   Glucose
   97
   Other labs: Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS - awaiting MR scan.  No
   structural lesion on CT. Nothing to suggest infection. Will continue
   Kepra per Neuro.  EEG today
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   s/p intubation for airway protection
 SUPRAVENTRICULAR TACHYCARDIA (SVT) with murmur will check echo.
   RESPIRATORY FAILURE - intubated for airway protection.  Should be able
   to wean rapidly.  Will change to PSV and d/c sedation
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2106-3-15**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes

2106-03-17 08:03:00 Physician Resident Progress Note
Chief Complaint: 29M admitted with first episode seizure
   24 Hour Events:
   [** **] successfully, remained groggy
   Was in rhabdo! Had rising CKs with rising Cr. Given 1 L bolus and
   250cc/hr NS
   Developed hypernatremia so switched to D51/2NS @ 250cc/hr
   Neuro: next step is EEG, continue Keppra
   Head MRI: fine
 MAGNETIC RESONANCE IMAGING - At [**2106-3-16**] 11:21 AM
 EKG - At [**2106-3-16**] 01:30 PM
 TRANSTHORACIC ECHO - At [**2106-3-16**] 02:00 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfa (Sulfonamides)
   Nausea/Vomiting
   Other medications:
   Keppra 500mg PO BID
   Heparin SQ
   Famotidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-3-17**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 78 (69 - 99) bpm
   BP: 125/68(82){92/49(59) - 142/83(86)} mmHg
   RR: 26 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 78.2 kg
   Height: 69 Inch
             Total In:
                                                                  4,984 mL
                                                                  1,030 mL
   PO:
                                                                  1,130 mL
                                                                    700 mL
   TF:
   IVF:
                                                                  3,794 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    730 mL
   Urine:
                                                                  1,920 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,064 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (430 - 430) mL
   RR (Set): 18
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 67
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 94%
   ABG: ///24/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no edema
   Skin:  Warm
   Neurologic: Attentive, CN 2-12 intact, full strength UE and LE
   Labs / Radiology
   204 K/uL
   12.0 g/dL
   118 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.9 mEq/L
   13 mg/dL
   114 mEq/L
   145 mEq/L
   35.4 %
   7.2 K/uL
        [image002.jpg]
   MRI brain
   MR BRAIN WITHOUT AND WITH INTRAVENOUS GADOLINIUM:  There is no evidence
   of
   hemorrhage, edema, masses, mass effect or infarction.  The ventricles
   and
   sulci are normal in caliber and configuration.  No diffusion
   abnormalities are
   detected.  The hippocampi are symmetric in morphology, signal
   intensity,
   enhancement characteristics.  There are no foci of abnormal enhancement
   post
   contrast.
   A moderately large air- fluid level is seen within the right sphenoid
   air
   cell. There is moderate mucosal thickening in bilateral ethmoid air
   cells.
   Slow flow within the right jugular bulb is incidentally noted.  The
   remaining
   vascular flow patterns are within normla limits.  A small Thornwaldt
   cyst
   measures 5 mm.
   IMPRESSION:  Unremarkable MRI brain.
   TTE
   The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thicknesses and cavity size are normal. Regional left
   ventricular wall motion is normal. Overall left ventricular systolic
   function is low normal (LVEF 50-55%). Transmitral and tissue Doppler
   imaging suggests normal diastolic function, and a normal left
   ventricular filling pressure (PCWP<12mmHg). There is no left
   ventricular outflow obstruction at rest or with Valsalva. Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets (3) appear structurally normal with good leaflet
   excursion and no aortic regurgitation. The mitral valve appears
   structurally normal with trivial mitral regurgitation. There is no
   mitral valve prolapse. There is no systolic anterior motion of the
   mitral valve leaflets. The pulmonary artery systolic pressure could not
   be determined. There is no pericardial effusion.
   IMPRESSION: Normal left ventricular cavity size with low normal
   systolic function.
   CSF gram negative cx NGTD
                             [**2106-3-15**]  11:22 PM
                             [**2106-3-16**]  04:21 AM
                             [**2106-3-16**]  03:00 PM
                             [**2106-3-16**]  06:03 PM
                             [**2106-3-17**]  01:00 AM
                             [**2106-3-17**]  05:18 AM
   WBC
   7.5
   7.2
   Hct
   38.3
   35.4
   Plt
   254
   204
   Cr
   1.4
   1.6
   1.4
   1.2
   TCO2
   23
   Glucose
   97
   91
   89
   118
   Other labs: CK / CKMB / Troponin-T:2521//, ALT / AST:36/54, Alk Phos /
   T Bili:44/1.7, Amylase / Lipase:67/25, Lactic Acid:1.2 mmol/L,
   Albumin:4.0 g/dL, LDH:389 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   1. Tonic-clonic seizures: No futher seizure activity, EEG done this
   morning, awaiting read
   -MRI showing no focal lesions
   -neuro recommends continue Keppra until discharge
   -follow up EEG results
   -will get seizure service consult and patient will need outpatient
   follow up
   2.  Arrythmia:  Bradycardic to 40's intermittantly with a dropped beat
   and subesquent ventricular escape beat.  Patient asymptomatic
   -unclear relation to seizure activity
   -will curbside EP to determine need to inpatient consult and
   possibility
   -will need outpatient EP follow up
   3.  Elevated CK's:  Likely rhabdomyolysis [**3-13**] to seziure.  Has been on
   250cc/hr NS for aggressive hydration overnight, now able to take po's.
   Cr decreasing, 1.2 today down from 1.4.
   -d/c fluids and encourage increased po intake
   -monitor CK and lytes [**Hospital1 **]
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-3-15**] 06:45 PM
   20 Gauge - [**2106-3-16**] 03:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: can D/C H2 antagonist
   VAP:  n/a
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to neuro
   Intern Addendum
   Agree with above note.
   Mr. [**Known lastname 657**] [**Last Name (Titles) **] yesterday, still no clear explanation for his
   seizures
 no structural abnormalities on CT or MRI, no evidence of CNS
   infection, tox screen negative. ?Hypoperfusion in setting of
   arrhythmia. Plan for EEG today continuing Keppra with further workup
   per neuro. No further episodes of SVT but telemetry does show sinus
   arrhythmia with PVCs
 had been bradycardic to 40
s this AM. Will
   curbside EP further regarding recommendations. TTE essentially
   unremarkable without significant valvular disease or evidence of HOCM.
   Will monitor on telemetry for now. Patient
s CKs have been elevated,
   likely seizure-related, will trend and continue hydration. Cr trending
   back down with adequate urine output, Cr likely bumped in setting of
   rhabdo.
   [**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) 436**] MD PGY1 [**Numeric Identifier 704**]

2106-03-17 10:57:00 Physician Attending Progress Note
Chief Complaint: Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2106-3-16**] 11:21 AM
 EKG - At [**2106-3-16**] 01:30 PM
 TRANSTHORACIC ECHO - At [**2106-3-16**] 02:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-3-16**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-3-16**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2106-3-17**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 69 (69 - 99) bpm
   BP: 128/69(83){92/49(59) - 142/83(86)} mmHg
   RR: 26 (18 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 78.2 kg
   Height: 69 Inch
             Total In:
                                                                  4,984 mL
                                                                  1,309 mL
   PO:
                                                                  1,130 mL
                                                                    950 mL
   TF:
   IVF:
                                                                  3,794 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                  1,040 mL
   Urine:
                                                                  1,920 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,064 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (430 - 430) mL
   RR (Set): 18
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 67
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: ///24/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   204 K/uL
   97 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   11 mg/dL
   111 mEq/L
   144 mEq/L
   35.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2106-3-15**]  11:22 PM
                             [**2106-3-16**]  04:21 AM
                             [**2106-3-16**]  03:00 PM
                             [**2106-3-16**]  06:03 PM
                             [**2106-3-17**]  01:00 AM
                             [**2106-3-17**]  05:18 AM
   WBC
   7.5
   7.2
   Hct
   38.3
   35.4
   Plt
   254
   204
   Cr
   1.4
   1.6
   1.4
   1.2
   1.0
   TCO2
   23
   Glucose
   97
   91
   89
   118
   97
   Other labs: CK / CKMB / Troponin-T:2521//, ALT / AST:36/54, Alk Phos /
   T Bili:44/1.7, Amylase / Lipase:67/25, Lactic Acid:1.2 mmol/L,
   Albumin:4.0 g/dL, LDH:389 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS - no further events. Had EEG this
   am and we are awaiting [**Location (un) 308**]. No structural abnormalities on CT or
   MR. Event occurred in setting of EtOH the night before but his
   girlfriend's description suggested a focal event that generalized
   rather than a generalized event
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   s/p intubation for airway protection
 SUPRAVENTRICULAR TACHYCARDIA (SVT) - now bradycardic. Echo was
   notable for low nl EF - will discuss with cardiology
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-3-15**] 06:45 PM
   20 Gauge - [**2106-3-16**] 03:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes